US08084620B2
Step 3 A solution of methyl 2-((3-bromo-2-methylphenylamino)methyl)-5-methoxybenzoate (360 mg, 0.988 mmol) in THF (10 mL) was treated with sodium tert-butoxide (142 mg, 1.483 mmol) and stirred at rt overnight. The mixture was treated with water and extracted twice with DCM. The combined organic phases were washed with water, dried and concentrated. The residue was purified by column chromatography (eluting with EtOAc-hexane) to provide 2-(3-bromo-2-methylphenyl)-6-methoxyisoindolin-1-one as a white solid (246 mg, 75%). 1H NMR (400 MHz, chloroform-d) δ 7.62 (1H, dd, J=7.9, 1.1 Hz), 7.46 (1H, d, J=2.4 Hz), 7.42 (1H, d, J=8.4 Hz), 7.15-7.26 (3H, m), 4.67 (2H, s), 3.92 (3H, s), 2.34 (3H, s). Mass spectrum m/z 332, 334 (M+H)+.

reactant | methyl 2-((3-bromo-2-methylphenylamino)methyl)-5-methoxybenzoate | 0.988 mmol, 360 mg | BrC=1C(=C(C=CC1)NCC1=C(C(=O)OC)C=C(C=C1)OC)C | C17H18BrNO3
reactant | sodium tert-butoxide | 1.483 mmol, 142 mg | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-bromo-2-methylphenyl)-6-methoxyisoindolin-1-one | 246 mg, 75% | BrC=1C(=C(C=CC1)N1C(C2=CC(=CC=C2C1)OC)=O)C | C16H14BrNO2
